US07592457B2
3-(3-bromo-4-hydroxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 13, using a 3-(4-benzyloxy-3-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione (0.10 g, 0.20 mmol) and BBr3 (0.59 mL, 1.0 M dichloromethane solution). After normal workup, the pure objective compound (65 mg, 78%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=2:1): 1H NMR (200 MHz, CDCl3) δ 1.70 (s, 3H, CH3), 5.51 (br s, 1H, OH), 6.76 (d, J=1.6 Hz, 1H, ArH), 6.94 (d, J=8.6 Hz, 1H, ArH), 7.02 (d, J=2 Hz, 1H, ArH), 7.28 (dd, J=8.6, 2.4 Hz, 1H, ArH); m.p. 228-229° C.; MS(EI) m/e 413 [M+], 381, 336, 299, 226; HRMS m/e cacld. for C16H10NO3Br1Cl2 412.9221, found 412.9195.

reactant | 3-(4-benzyloxy-3-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.20 mmol, 0.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C)Br | C23H16BrCl2NO3
reactant | BBr3 | 1.0 M, 0.59 mL | B(Br)(Br)Br | BBr3
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-bromo-4-hydroxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 65 mg, 78% | BrC=1C=C(C=CC1O)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H10BrCl2NO3
